US07491716B2
(4-Oxo-4,5-dihydrofuro[3,2-c]pyridin-7-yl)acetonitrile
Combine methyl (4-oxo-4,5-dihydrofuro[3,2-c]pyridin-7-yl)acetate (4.42 g, 21.3 mmol), sodium cyanide (5.22 g, 106 mmol), and dimethylsulfoxide (44 mL) and heat at 80° C. for 1 hour. Cool to room temperature, pour into ethyl acetate, wash sequentially with water, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride, dry over magnesium sulftate, filter, and concentrate under reduced pressure to provide the desired compound (3.63 g, 63%).

reactant | methyl (4-oxo-4,5-dihydrofuro[3,2-c]pyridin-7-yl)acetate | 21.3 mmol, 4.42 g | O=C1NC=C(C2=C1C=CO2)CC(=O)OC | C10H9NO4
reactant | sodium cyanide | 106 mmol, 5.22 g | [C-]#N.[Na+]
reactant | dimethylsulfoxide | 44 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Oxo-4,5-dihydrofuro[3,2-c]pyridin-7-yl)acetonitrile | 3.63 g, 63% | O=C1NC=C(C2=C1C=CO2)CC#N | C9H6N2O2
